US06002008
4-Chloro-7-methoxy-6-nitro -3-quinolinecarbonitrile
A mixture of 5.3 g (21.6 mmol) of 1,4-dihydro-7-methoxy-6-nitro-4-oxo-3-quinolinecarbonitrile and 9 g (43.2 mmol) of phosphorous pentachloride was heated at 165° C. for 2 hours. The mixture was diluted with hexanes and the solid was collected. The solid was dissolved in 700 ml ethyl acetate and washed with cold dilute sodium hydroxide solution. The solution was dried over magnesium sulfate and filtered through a pad of silica gel giving 5.2 g of 4-chloro-7-methoxy-6-nitro-3-quinolinecarbonitrile as a tan solid.

reactant | 1,4-dihydro-7-methoxy-6-nitro-4-oxo-3-quinolinecarbonitrile | 21.6 mmol, 5.3 g | COC1=C(C=C2C(C(=CNC2=C1)C#N)=O)[N+](=O)[O-] | C11H7N3O4
reactant | phosphorous pentachloride | 43.2 mmol, 9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-Chloro-7-methoxy-6-nitro -3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OC)C#N | C11H6ClN3O3
